US06323202B1
A solution of ethyl α-(2-butenyl)-3-nitro-β-oxobenzenepropanoate (411 mg, 1.41 mmol) in 1,4-dioxane (12 mL) was stirred at 25° for 8.5 h under a hydrogen atmosphere (1 atm) in presence of Pd/BaSO4 (225 mg+150 mg added after 5.5 h). The suspension was filtered (50μ filter) and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (40-63μ silica gel, hexane:EtOAc, 3:1) to give ethyl 3-amino-α-butyl-β-oxobenzenepropionate (242 mg, 65% yield):

reactant | ethyl α-(2-butenyl)-3-nitro-β-oxobenzenepropanoate | 1.41 mmol, 411 mg | C(C=CC)C(C(=O)OCC)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H17NO5
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | Pd BaSO4 | 225 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | ethyl 3-amino-α-butyl-β-oxobenzenepropionate | 242 mg, 65% yield | NC=1C=C(C=CC1)C(C(C(=O)OCC)CCCC)=O | C15H21NO3
